US07439393B2
ii) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-({4-[(diphenylmethylene)amino]benzyl}oxy)ethoxy]hexyl}-1,3-oxazolidin-2-one
A mixture of palladium (II) acetate (40 mg), racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (166 mg) and cesium carbonate (811 mg) under nitrogen was treated with toluene (15 ml) and benzophenone imine (0.36 ml) followed by a solution of (5R)-3-(6-{2-[(4-bromobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (1.00 g) in toluene (10 ml). The stirred mixture was heated to 100° for 18 h. The mixture was cooled to 20°, dichloromethane (25 ml) was added and the mixture was filtered. The filtrate was evaporated in vacuo and the residue purified by chromatography on flash silica gel (30 mm diameter column). Elution with EtOAc-PE (3:2) gave the title compound (890 mg). LCMS RT=4.07 min.

reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 166 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 811 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzophenone imine | 0.36 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | (5R)-3-(6-{2-[(4-bromobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 1.00 g | BrC1=CC=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=C1 | C28H36BrNO6
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-({4-[(diphenylmethylene)amino]benzyl}oxy)ethoxy]hexyl}-1,3-oxazolidin-2-one | 890 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC2=CC=C(C=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)C | C41H46N2O6
